US08236806B2
1-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-(3,4-dimethylphenyl)piperazine (Compound 95)
60 mg (71%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal (50 mg, 0.170 mmol), 1-(3,4-dimethylphenyl)piperazine (32 mg, 0.170 mmol), DIPEA (0.030 mL, 0.170 mmol) and NaBH(OAc)3 (108 mg, 0.510 mmol).

reactant | 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal | 0.170 mmol, 50 mg | FC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C18H15FN2O
reactant | 1-(3,4-dimethylphenyl)piperazine | 0.170 mmol, 32 mg | CC=1C=C(C=CC1C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.170 mmol, 0.030 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.510 mmol, 108 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)-4-(3,4-dimethylphenyl)piperazine | FC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCCN1CCN(CC1)C1=CC(=C(C=C1)C)C | C30H33FN4
